US05994344
(1-Ethoxy-3-methyl-but-1-enyloxy)-triisopropyl-silane
Tetrahydrofuran (100 ml) and 1,3-dimethyl-3,4,5,6-tetrahydro 2 (1H)-pyrimidinone (140 ml) were mixed at -20° C. and lithium bis (trimethylsilyl) amide (1M in tetrahydrofuran, 100 ml) was added. The mixture was cooled to -70° C., ethyl isovalerate (18.75 ml) added and stirred for 1/2 hour at -70° C. Triisopropylsilyl trifluoromethane sulfonate was added and the mixture left to stir at -75° C. for 1/2 hour before warming to room temperature and stirring for 3 hours. The reaction mixture was quenched with aqueous sodium bicarbonate (8%, 150 ml) and extracted with hexane (1000 ml). The hexane extract was washed with water (4×500 ml), dried (MgSO4), filtered and concentrated in vacuo to afford a crude yellow oil containing the title compound.

reactant | Tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | lithium bis (trimethylsilyl) amide | 1M, 100 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | ethyl isovalerate | 18.75 ml | C(CC(C)C)(=O)OCC | C7H14O2
reactant | Triisopropylsilyl trifluoromethane sulfonate | FC(S(=O)(=O)O[Si](C(C)C)(C(C)C)C(C)C)(F)F | C10H21F3O3SSi
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro 2 (1H)-pyrimidinone | 140 ml | CN1C(N(CCC1)C)=O | C6H12N2O
product | (1-Ethoxy-3-methyl-but-1-enyloxy)-triisopropyl-silane | C(C)OC(=CC(C)C)O[Si](C(C)C)(C(C)C)C(C)C | C16H34O2Si
